US05352784
Using the method of Example 1 Part A, methyl 2-oxocycloheptanecarboxylate (50.5 g, 0.30 mole) was reacted with urethane to provide 59 g of methyl 2-[(ethoxycarbonyl)amino]-1-cycloheptene-1-carboxylate as an oil.

reactant | methyl 2-oxocycloheptanecarboxylate | 0.30 mole, 50.5 g | O=C1C(CCCCC1)C(=O)OC | C9H14O3
reactant | urethane | NC(=O)OCC | C3H7NO2
product | methyl 2-[(ethoxycarbonyl)amino]-1-cycloheptene-1-carboxylate | 59 g | C(C)OC(=O)NC1=C(CCCCC1)C(=O)OC | C12H19NO4
